US04935530
5-(1-Hydroxyhexyl)-3-furaldehyde
n-Butyl lithium (a 2.5M solution in hexane; 4.37 ml, 10.9 mmol) was added to a solution of morpholine (0.91 ml, 10.9 mmol) in tetrahydrofuran (30 ml) at -78° under argon. After 20 min., 3-furaldehyde (0.9 ml, 10.4 mmol) was added. After another 20 min., sec-butyl lithium (a 1.3M solution in cyclohexane; 8.4 ml, 10.9 mmol) was added dropwise and stirring continued at -78° for 7 hours before 1-hexanal (1.31 ml, 10.9 mmol) was added. Stirring was continued overnight (16 hours) while the cooling bath was allowed to attain room temperature. The solution was poured into ice cold 10% (v/v) hydrochloric acid (30 ml) and after stirring at 0° for 10 min., the layers were separated. The aqueous phase was extracted with diethyl ether. All the organic phases were combined, dried (magnesium sulfate) and evaporated down to give a brown oil, which was purified by flash chromatography on silica using 40% ethyl ether/hexane. Fractions with Rf of about 0.08 on evaporation gave the title compound as a yellow oil.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | morpholine | 10.9 mmol, 0.91 ml | N1CCOCC1 | C4H9NO
reactant | 3-furaldehyde | 10.4 mmol, 0.9 ml | O1C=C(C=C1)C=O | C5H4O2
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 1-hexanal | 10.9 mmol, 1.31 ml | C(CCCCC)=O | C6H12O
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 5-(1-Hydroxyhexyl)-3-furaldehyde | OC(CCCCC)C1=CC(=CO1)C=O | C11H16O3
